* 5F4 (Tweed Super-style) — DC operating-point netlist
* Circuit Codex — CC-BY-SA 4.0. Independently drawn from the published 5F4
* (C-EG) drawing's component values (see meta.yaml); no drawing reproduced.
*
* DC conventions: B+1 driven at the printed +415 V; downstream nodes DERIVED.
* Choke (14684) modeled as a 130R DCR estimate (drawing prints 415 -> 410 across
* it). OT primary DCR omitted. Bias supply replaced by an ideal -40 V source
* (its 6.8k/56k/selenium network is AC/ripple filtering). Coupling and tone
* caps omitted (DC open); the treble/bass tone stack is capacitor-coupled at DC.
* Output tubes are drawn "6L6G"; the 6L6-family 5881 model stands in (see notes).
.include models/12ay7.inc
.include models/12ax7.inc
.include models/5881.inc

VBP1 BP1 0 DC 415
VBIAS NBIAS 0 DC -40

* rail: choke -> screens node, 10k -> PI node, 10k -> preamp node
RCHOKE BP1 BP2 130
RD1 BP2 BP3 10k
RD2 BP3 BP4 10k

* V1 12AY7 — two channels, shared 820R cathode (25uF bypass omitted for DC)
RL1 BP4 PAY1 100k
XV1A PAY1 GAY1 KAY 12AY7
RG1 GAY1 0 1meg
RL2 BP4 PAY2 100k
XV1B PAY2 GAY2 KAY 12AY7
RG2 GAY2 0 1meg
RK1 KAY 0 820

* V2A 12AX7 gain stage. Grid returns to ~ground: the 4.7M loops back to the
* tone-stack output (≈0 V DC) and the 270k mixers reach ground through the
* volume pots; modeled here as a single 4.7M leak to ground.
RL3 BP4 P2A 100k
XV2A P2A G2A K2A 12AX7
RG3 G2A 0 4.7meg
RK2 K2A 0 1.5k

* V2B cathode follower — grid DC-coupled to V2A plate, 100k cathode load,
* plate straight to the preamp rail.
XV2B BP4 P2A KCF 12AX7
RKCF KCF 0 100k

* Long-tailed-pair phase inverter: 56k (V3A) and 100k (V3B) plate loads,
* 1.5k tail + 56k to ground, both 1M grid leaks returned to the tail junction
* (the drawing's elevated +55 V cathodes / +53.3 V junction). Input coupled
* from the tone stack (cap open at DC); NFB 56k + 5k presence sit at ~0 V DC.
RLA BP3 PPIA 56k
XV3A PPIA GPIA KPI 12AX7
RGA GPIA JPI 1meg
RLB BP3 PPIB 100k
XV3B PPIB GPIB KPI 12AX7
RGB GPIB JPI 1meg
RTAIL KPI JPI 1.5k
RT2 JPI 0 56k

* 6L6G pair — fixed bias via 220k leaks from the -40 V supply; screens tied
* straight to the +410 V node (no screen resistors on the C-EG drawing).
RGL1 NBIAS G51 220k
XV4 BP1 BP2 G51 0 5881
RGL2 NBIAS G52 220k
XV5 BP1 BP2 G52 0 5881
* PI-plate -> output-grid drive: 0.1u coupling caps (C9/C10, DC-open) + 1.5k grid
* stoppers (R5s/R6s). Modelled so the layout-equivalence gate checks the inter-
* stage routing and push-pull phase natively (C9 carries V3A/56k plate to the V4
* grid, C10 carries V3B/100k plate to the V5 grid). Grid current is ~0, so each
* grid still sits at the -40 V bias node through its 220k leak; op point unmoved.
C9 PPIA NG51 0.1u
R5s NG51 G51 1.5k
C10 PPIB NG52 0.1u
R6s NG52 G52 1.5k
