* 5F4 (Tweed Super-style) — DC operating-point netlist
* Circuit Codex — CC-BY-SA 4.0. Independently drawn from the published 5F4
* (C-EG) drawing's component values (see meta.yaml); no drawing reproduced.
*
* DC conventions: B+1 driven at the printed +415 V; downstream nodes DERIVED.
* Choke (14684) modeled as a 130R DCR estimate (drawing prints 415 -> 410 across
* it). OT primary DCR omitted. Bias supply replaced by an ideal -40 V source
* (its 6.8k/56k/selenium network is AC/ripple filtering). DC-open caps are
* MODELLED where both leads land on a named DC node (the PI->output couplers
* C9/C10 below, plus the cathode-bypass caps C3/C4) so their board placement is
* layout-checked; open at DC, they move no operating point. Caps into the
* abstracted volume/tone network stay omitted.
* Output tubes are drawn "6L6G"; the 6L6-family 5881 model stands in (see notes).
.include models/12ay7.inc
.include models/12ax7.inc
.include models/5881.inc

VBP1 BP1 0 DC 415
VBIAS NBIAS 0 DC -40

* rail: choke -> screens node, 10k -> PI node, 10k -> preamp node
RCHOKE BP1 BP2 130
RD1 BP2 BP3 10k
RD2 BP3 BP4 10k

* V1 12AY7 — two channels, shared 820R cathode (25uF bypass omitted for DC)
RL1 BP4 PAY1 100k
XV1A PAY1 GAY1 KAY 12AY7
RG1 GAY1 0 1meg
RL2 BP4 PAY2 100k
XV1B PAY2 GAY2 KAY 12AY7
RG2 GAY2 0 1meg
RK1 KAY 0 820

* V2A 12AX7 gain stage. Grid returns to ~ground: the 4.7M loops back to the
* tone network's bass-branch node (which its own 220k leak holds at ≈0 V DC)
* and the 270k mixers reach ground through the volume pots; modeled here as a
* single 4.7M leak to ground.
RL3 BP4 P2A 100k
XV2A P2A G2A K2A 12AX7
RG3 G2A 0 4.7meg
RK2 K2A 0 1.5k

* V2B cathode follower — grid DC-coupled to V2A plate, 100k cathode load,
* plate straight to the preamp rail.
XV2B BP4 P2A KCF 12AX7
RKCF KCF 0 100k

* Phase inverter — the C-EG sheet draws a DRIVER + SPLIT-LOAD (cathodyne)
* pair, not a long-tailed pair. V3A is a plain cathode-biased gain stage
* (100k plate at the printed +213 V, 1.5k cathode at +1.7 V) whose grid runs
* DC-direct from the tone network's output; the network's own 220k + bass
* track ground the grid (zero grid current, so the leak's exact value moves
* nothing — 470k entered). Its plate couples through C8 0.02u into V3B, the
* split-load cathodyne: 56k plate (+270 V printed), 1.5k + 56k under the
* cathode (+55 V / +53.3 V printed), 1M grid leak returned to the 1.5k/56k
* junction. The speaker's 56k NFB and the 5k presence network land on V3A's
* cathode; at DC that parallels RK3 with ~56.5k through the output secondary
* (a -2.5% shift on a +1.7 V node) — annotation, not modelled.
RLA BP3 PPIA 100k
XV3A PPIA GPIA KPIA 12AX7
RGPI GPIA 0 470k
RK3 KPIA 0 1.5k
C8 PPIA GPIB 0.02u
RLB BP3 PPIB 56k
XV3B PPIB GPIB KPI 12AX7
RGB GPIB JPI 1meg
RTAIL KPI JPI 1.5k
RT2 JPI 0 56k

* 6L6G pair — fixed bias via 220k leaks from the -40 V supply; screens tied
* straight to the +410 V node (no screen resistors on the C-EG drawing).
RGL1 NBIAS G51 220k
XV4 BP1 BP2 G51 0 5881
RGL2 NBIAS G52 220k
XV5 BP1 BP2 G52 0 5881
* Cathodyne -> output-grid drive: 0.1u coupling caps (C9/C10, DC-open) + 1.5k
* grid stoppers (R5s/R6s). Modelled so the layout-equivalence gate checks the
* inter-stage routing and push-pull phase natively (C9 carries the cathodyne's
* 56k PLATE to the V4 grid, C10 carries its CATHODE to the V5 grid — the
* split-load pair of outputs the sheet draws). Grid current is ~0, so each
* grid still sits at the -40 V bias node through its 220k leak; op point unmoved.
C9 PPIB NG51 0.1u
R5s NG51 G51 1.5k
C10 KPI NG52 0.1u
R6s NG52 G52 1.5k

* cathode-bypass caps (both leads on a named DC node — placement layout-checked)
C3 KAY 0 25u
C4 K2A 0 25u
